US09079866B2
Step B: 5-(4-Bromo-2-fluoro-3-methoxyphenyl)pyrazin-2-amine
A mixture of (4-bromo-2-fluoro-3-methoxyphenyl)boronic acid (940 mg, 1.69 mmol) and 5-bromopyrazin-2-amine (1.31 g, 7.56 mmol) was treated with EtOH (12.4 ml), toluene (12.8 ml), and aqueous Na2CO3 (2.0 N, 9.44 ml, 18.9 mmol), and the resulting mixture deoxygenated by sparging with for 10 minutes. Pd(PPh3)4 (218 mg, 0.189 mmol) was then added, and the mixture heated at 80° Celsius for 17 h. The reaction was cooled to rt and then partitioned between saturated aqueous NH4Cl and EtOAc. The organic layer was isolated, dried over MgSO4, and concentrated to dryness. The resultant residue was suspended in DCM and the title compound isolated by filtration (300 mg, 27%), which was used without further purification. Additional product was obtained by concentrating the filtrate to dryness and subjecting the residue to FCC (560 mg, 50%). MS (ESI): mass calcd. for C11HgBrFN3O, 296.99; m/z found, 298.0 [M+H]+. 1H NMR (500 MHz, DMSO-d6) δ 8.34 (dd, J=2.6, 1.5, 1H), 8.00 (d, J=1.5, 1H), 7.54-7.49 (m, 2H), 6.78 (s, 2H), 3.90 (d, J=0.6, 3H).

reactant | (4-bromo-2-fluoro-3-methoxyphenyl)boronic acid | 1.69 mmol, 940 mg | BrC1=C(C(=C(C=C1)B(O)O)F)OC | C7H7BBrFO3
reactant | 5-bromopyrazin-2-amine | 7.56 mmol, 1.31 g | BrC=1N=CC(=NC1)N | C4H4BrN3
reactant | EtOH | 12.4 ml | CCO | C2H6O
reactant | Na2CO3 | 18.9 mmol, 2.0 N, 9.44 ml | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | Pd(PPh3)4 | 0.189 mmol, 218 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | toluene | 12.8 ml | C1(=CC=CC=C1)C | C7H8
product | 5-(4-Bromo-2-fluoro-3-methoxyphenyl)pyrazin-2-amine | BrC1=C(C(=C(C=C1)C=1N=CC(=NC1)N)F)OC | C11H9BrFN3O
